US09290476B2
5-(4-Chlorobenzyl)-2,2-dimethyl-1,3-dioxane-4,6-dione
Proline (0.165 g, 1.42 mmol) was added to a solution of 4-chlorobenzaldehyde (1.00 g, 7.11 mmol) and Meldrum's acid (1.03 g, 7.11 mmol) in EtOH (10 mL). The mixture was stirred at room temperature for 1 hour and diethyl 1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylate (1.80 g, 7.11 mmol) was added. Stirring was continued for 3 hours and EtOH removed under reduced pressure. The residue was diluted with i-PrOH and filtered to provide the desired compound as a white solid.

reactant | Proline | 1.42 mmol, 0.165 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 4-chlorobenzaldehyde | 7.11 mmol, 1.00 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | Meldrum's acid | 7.11 mmol, 1.03 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | diethyl 1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylate | 7.11 mmol, 1.80 g | CC=1NC(=C(CC1C(=O)OCC)C(=O)OCC)C | C13H19NO4
solvent | EtOH | 10 mL | CCO | C2H6O
product | 5-(4-Chlorobenzyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | ClC1=CC=C(CC2C(OC(OC2=O)(C)C)=O)C=C1 | C13H13ClO4
